US08835451B2
C. (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-3,6-dihydro-2H-pyridin-1-yl)-oxo-acetic acid ethyl ester
To a solution of (3-chlorophenyl)-{5-[4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-oxazol-2-yl}-amine bis HCl salt (50 mg, 0.12 mmol) in DCM (1 mL) at 0° C. is added DIEA (0.052 mL, 0.3 mmol) and after stirring for 5 min, ethyl chlorooxoacetate (0.016 mL, 0.14 mmol) is added dropwise. The mixture is stirred for 2 h and the mixture is purified by RP-HPLC to give the title compound: 1H NMR (400 MHz, DMSO-D6) δ 1.30 (q, J=7.07 Hz, 3H) 2.58 (m, 2H) 3.55-3.90 (m, 2H) 4.07-4.20 (m, 1H) 4.32 (m, 2H) 6.21-6.29 (m, 1H) 7.00 (dd, J=7.45, 1.64 Hz, 1H) 7.34 (t, J=8.08 Hz, 1H) 7.47-7.60 (m, 6H) 7.86 (t, J=2.02 Hz, 1H); (M+H)+452.1.

reactant | (3-chlorophenyl)-{5-[4-(1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-oxazol-2-yl}-amine bis HCl salt | 0.12 mmol, 50 mg | Cl.Cl.ClC=1C=C(C=CC1)NC=1OC(=CN1)C1=CC=C(C=C1)C=1CCNCC1
reactant | DIEA | 0.3 mmol, 0.052 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl chlorooxoacetate | 0.14 mmol, 0.016 mL | ClC(C(=O)OCC)=O | C4H5ClO3
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (4-{4-[2-(3-Chlorophenylamino)-oxazol-5-yl]-phenyl}-3,6-dihydro-2H-pyridin-1-yl)-oxo-acetic acid ethyl ester | C(C)OC(C(=O)N1CCC(=CC1)C1=CC=C(C=C1)C1=CN=C(O1)NC1=CC(=CC=C1)Cl)=O | C24H22ClN3O4
